Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fevers, cough, tachycardia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old ___ female with hx of 
severe developmental delay, HTN, and extrapulmonary tuberculosis 
(Pott's Disease ___ s/p at least 9 months of TB therapy 
referred to ED for fever to 101.3, cough x3 weeks, tachycardia, 
and tachypnea to RR 28. 

Patient was in her usual state of health until she presented to 
primary NP in ___ for cough, intially prescribed Tessalon 
Perles without improvement.  Several days later, patient's cough 
became productive of sputums, for which she was 
prescribed/completed (confirmed by family) a course of 
azithromycin (Z-pack rx'd ___.  Around that time, patien 
had CXR on ___ that revealed small R-sided pleural effusion 
but was otherwise without acute process.  Since the CXR revealed 
small R-sided pleural effusion but without acute process on ___. 
 Since then, the patien reports that the patient has been happy 
without changes in normal behavior. No unintentional weight 
loss, chills/rigors, night sweats, change in appetite or energy 
level. She representd on ___ to NP, found to be febrile to 
100.8-101.3, tachycardic to 120s, tachypneic to ___ with O2 
sat 95% for which she was referred into ___ ED for further 
work-up/management. 

In the ED, initial vitals 99.5 126 140/94 28 96%.  Labs were 
notable for Chem-7 and CBC wnl, BNP 21, lactate 1.2, HCG<2.  CXR 
showed persistent blunting of the right costophrenic angle 
suggesting a small right pleural effusion. Possible minimal 
pulmonary vascular congestion.  CTA showed "No evidence of 
pulmonary embolism. Small peripheral faint opacity in the 
lingula is likely atalectasis. No evidence of pneumonia. 
Esophagus is patulous similar to prior." Patient was adminisered 
2L NS with HR remaining persistently in 130s-140s (sinus 
tachycardia on 2 EKGs), and levofloxacin 500mg PO x1.   
VS prior to transfer 100.8 129 146/99 16 96% RA.  

Since arrival to the floor, VS 99.7 ___ 18 97%RA. 
Patient remained stable and appears comfortable.
 
Past Medical History:
- Profound developmental delay
- HTN
- Premature ovarian failure
- Extrapulmonary TB ___: T10-11 paraspinal/epidural abscess, 
multiple lytic and expansile lesions of R lateral/posterior 
ribs, ? T10-11 osteo, s/p 9 months TB therapy at ___ (most 
inpatient, rest DOT)
 
Social History:
___
Family History:
- Mother with pacemaker - unknown reason
- Otherwise noncontributory
 
Physical Exam:
PHYSICAL EXAM
==============
Vitals: 100.8 99.7 ___ 18 97%RA  
General: Nonverbal, smiling/intermittent giggling, does not 
follow commands, NAD
HEENT: NC/AT, unable to visualize oropharynx poor dentition
Neck: Large, supple, no JVD.
CV: Tachycardic, regular, +S1/S2, no m/r/g
Lungs: Poor inspiratory effort, clear anteriorly
Abdomen: Soft, NT/ND
GU: Diaper in place
Ext: WWP, DP 2+
Neuro: Does not follow commands, CN grossly intact. 
Skin: No concerning lesions
 
Pertinent Results:
LABS/PERTINENT RESULTS
======================
___ 07:35PM BLOOD WBC-8.9 RBC-4.42 Hgb-13.3 Hct-39.0 MCV-88 
MCH-30.0 MCHC-34.1 RDW-12.3 Plt ___
___ 07:35PM BLOOD Neuts-67.3 ___ Monos-6.2 Eos-1.7 
Baso-0.6
___ 07:35PM BLOOD Glucose-123* UreaN-10 Creat-0.8 Na-137 
K-4.3 Cl-98 HCO3-26 AnGap-17
___ 07:35PM BLOOD ALT-14 AST-29 AlkPhos-84 TotBili-0.3
___ 07:35PM BLOOD proBNP-21
___ 07:35PM BLOOD TSH-0.47
___ 07:35PM BLOOD Free T4-1.3
___ 07:35PM BLOOD HCG-<5
___ 07:50PM BLOOD Lactate-1.2

___ 10:17 am Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 
                            **FINAL REPORT ___
   Respiratory Viral Culture (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 
      Inadequate specimen for respiratory viral culture. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 
   Respiratory Viral Antigen Screen (Final ___: 
      Reported to and read back by ___ ___ 1330. 
      Greater than 400 polymorphonuclear leukocytes;. 
      Specimen inadequate for detecting respiratory viral 
infection by DFA
      testing. 
      Interpret all negative results from this specimen with 
caution. 
      Negative results should not be used to discontinue 
precautions.

REPORTS
========
___ CTA Chest
No evidence of pulmonary embolism. Small peripheral faint 
opacity in the lingula is likely atalectasis. No evidence of 
pneumonia. Esophagus is patulous similar to prior.  

___ Chest X-ray
Persistent blunting of the right costophrenic angle suggesting a 
small right pleural effusion.  Possible minimal pulmonary 
vascular congestion. 
 
Brief Hospital Course:
___ year-old ___ female with severe developmental delay, 
hypertension, and a history of extrapulmonary tuberculosis s/p 9 
months of TB therapy who was referred to ___ ED for fever to 
101.3, cough x3 weeks, tachycardia.

# Sinus tachycardia: Patient was found to have tachycardia in 
the setting of fever and cough. Two EKGs conducted in the 
emergency room showed sinus tachycardia. CTA Chest was negative 
for pulmonary embolism. Lab testing was negative for congestive 
heart failure, hyperthyroidism (normal TSH/free T4), and anemia 
(normal CBC). As such, the most likely etiology was dehydration 
from insensible losses and fever in the setting of upper 
respiratory infection (see below). The patient was administered 
3L IV fluids with improvement in tachycardia from HR 140s to 
110s at the time of discharge. Patient's sister was advised 
ensure that patient has good PO intake and to measure her 
temperature ___ and administer Tylenol for temperature >99 
in order to reduce dehydration from fevers.

# Cough and fever: Patient was referred to ___ ED for fever to 
101.3 and 3 weeks of cough. Chest X-ray was negative for 
pneumonia, and the patient had completed a course of 
azithromycin without improvement, so the most likely etiology of 
the patient's presentation was a viral upper respiratory 
infection.  Respiratory viral swab was attempted, but patient 
was unable to tolerate the collection process.  At the time of 
discharge, the patient had been afebrile for more than 18 hours 
and was breathing comfortably on room air.  

# Hypertension: In the setting of dehydration/tachycardia, 
spironolactone was held. Metoprolol was converted from once 
daily to BID. 

# Medication reconciliation: Omeprazole converted to 
lansoprazole because omeprazole cannot be crushed.

=================================
TRANSITIONAL ISSUES
=================================
- STOPPED Spironolactone in the setting of tachycardia and 
dehydration
- CHANGED metoprolol tartrate from 50 daily to 2 BID
- CHANGED omeprazole to Lansoprazole so medication can be 
crushed
- Advised patient's sister ___ was advised ensure that 
patient has good PO intake and to measure her temperature 
___ and administere Tylenol for temperature >99 in order to 
reduce dehydration from fevers
- PCP ___ scheduled for ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. acetaminophen-codeine 300-30 mg oral Q6H:PRN pain 
2. Baclofen 10 mg PO BID 
3. Benzonatate 100 mg PO TID:PRN cough 
4. Lactulose 15 mL PO BID 
5. Lorazepam ___ mg PO PRN dental procedures 
6. Metoprolol Tartrate 50 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Spironolactone 25 mg PO DAILY 

 
Discharge Medications:
1. Lorazepam ___ mg PO PRN dental procedures 
2. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
RX *lansoprazole 30 mg 1 capsule,delayed ___ by 
mouth daily Disp #*14 Tablet Refills:*0
3. acetaminophen-codeine 300-30 mg oral Q6H:PRN pain 
4. Baclofen 10 mg PO BID 
5. Benzonatate 100 mg PO TID:PRN cough 
6. Lactulose 15 mL PO BID 
7. Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth Every 12 
hours (2 times day) Disp #*28 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
Viral upper respiratory tract infection
Sinus tachycardia
Dehydration

SECONDARY
Hypertension
Severe developmental delay

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during this 
hospitalization.  You were admitted to ___ 
___ for fevers, cough, and a fast heart rate.

Scans of your chest were conducted and did not show any 
infection of your lungs or blood clots. Lab tests were conducted 
and did not find any problems with your heart (heart failure), 
thyroid problems, or low blood counts.  You most likely have a 
viral cold causing you to be dehydrated and to have fevers and 
cough. We tried to test you for the flu virus, but were unable 
to collect an appropriate sample.

You are now safe to go home. You should drinks fluids to keep 
yourself hydrated.  You should have your temperature checked ___ 
times a day, and take tylenol if your temperature if higher than 
99 in order to prevent dehydration.  

While you are dehydrated, you should STOP your spironolactone.  
We have split your medication "metoprolol" to twicea day.  We 
have also switched your "omeprazole" to it's sister medication 
"lansoprazole," which can be crushed and administered with food. 
You are scheduled to ___ with your PCP ___ on 
___.  
 
Followup Instructions:
___